US05948802
[[4-[[4-Chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenoxy]carbonyl]phenyl]-methyl] trimethylammonium chloride
A solution of 4-chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenyl 4-(chloromethyl)benzoate (0.3 g, 0.573 mmol) in acetonitrile/ethyl acetate (20 mL) was saturated with anhydrous trimethylamine. The reaction mixture was stirred at room temperature for two days. The precipitate was collected and purified by recrystallization from acetonitrile-ether to afford the title compound as a white solid (0.24 g, 72%):

reactant | 4-chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenyl 4-(chloromethyl)benzoate | 0.573 mmol, 0.3 g | ClCC1=CC=C(C(=O)OC2=C(C=C(C=C2)Cl)CN2C(OC(=N2)C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C24H15Cl2F3N2O4
reactant | trimethylamine | CN(C)C | C3H9N
solvent | acetonitrile ethyl acetate | 20 mL | C(C)#N.C(C)(=O)OCC
product | [[4-[[4-Chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenoxy]carbonyl]phenyl]-methyl] trimethylammonium chloride | 0.24 g, 72% | [Cl-].ClC1=CC(=C(OC(=O)C2=CC=C(C=C2)C[N+](C)(C)C)C=C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C27H24ClF3N3O4.ClH/c1-34(2,3)16-17-4-6-19(7-5-17)25(35)37-23-13-12-22(28)14-20(23)15-33-26(36)38-24(32-33)18-8-10-21(11-9-18)27(29,30)31;/h4-14H,15-16H2,1-3H3;1H/q+1;/p-1
